US07906660B2
4′-Methoxy-8-methylisoflav-3-ene-7-ol was prepared from 7-acetoxy-4′-methoxy-8-methylisoflav-3-ene (0.11 g, 0.3 mmol) and imidazole (0.14 g) in ethanol (1.5 ml) as described for 8-methylisoflav-3-ene-4′,7-diol. Yield: (0.05 g, 53%) m.p. 103° C. 1H NMR (d6-acetone): δ 1.99 (s, 3H, CH3), 3.81 (s, 3H, OMe), 5.11 (s, 2H, H2), 6.43 (d, 1H, J 8.3 Hz, H6), 6.77 (bs, 1H, H4), 6.80 (d, 1H, J 8.3 Hz, H5), 6.95 (d, 2H, J 9.0 Hz, ArH), 7.44 (d, 2H, J 9.0 Hz, ArH). Mass spectrum: 282 (M, 9%); 267 (100); 268 (95); 134 (52).

reactant | 7-acetoxy-4′-methoxy-8-methylisoflav-3-ene | 0.3 mmol, 0.11 g | C(C)(=O)OC1=CC=C2C=C(COC2=C1C)C1=CC=C(C=C1)OC | C19H18O4
reactant | imidazole | 0.14 g | N1C=NC=C1 | C3H4N2
reactant | 8-methylisoflav-3-ene-4′,7-diol | CC=1C(=CC=C2C=C(COC12)C1=CC=C(C=C1)O)O | C16H14O3
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
product | 4′-Methoxy-8-methylisoflav-3-ene-7-ol | COC1=CC=C(C=2COC3=C(C(=CC=C3C2)O)C)C=C1 | C17H16O3
